US07723538B2
4-[4-Chloro-3-(3-fluoro-benzenesulfonylamino)-benzoylamino]-benzoic acid, MS (ISP): m/e=447.1 (M−H), was prepared in analogy to example 21, steps A to D. Step C was performed using 3-fluoro-benzenesulfonyl chloride and yielded 4-[4-chloro-3-(3-fluoro-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-[4-Chloro-3-(3-fluoro-benzenesulfonylamino)-benzoylamino]-benzoic acid | ClC1=C(C=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=C1)NS(=O)(=O)C1=CC(=CC=C1)F | C20H14ClFN2O5S
reactant | 3-fluoro-benzenesulfonyl chloride | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
product | 4-[4-chloro-3-(3-fluoro-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=C(C=C1)Cl)NS(=O)(=O)C1=CC(=CC=C1)F)=O)=O | C22H18ClFN2O5S
